US07153874B2
Step 3: 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine
2-Methyl-4-trimethylsilanylethynyl-pyridine (12 g, 74 mmol) and 5-iodo-2-methyl-1H-imidazole (13.24 g, 64 mmol, synthesis: Cliff and Pyne, Synthesis 681–682 (1994) were dissolved in 75 mL dry THF and 20 mL dry DMF. This mixture was evacuated and backfilled with argon several times to remove oxygen from the solution. Solution 2: Triphenylphosphine (223 mg, 0.85 mmol), bis(triphenylphosphine)-palladium(II)chloride (1.79 g, 2.55 mmol), copper(I)iodide (81 mg, 0.43 mmol) and triethyl amine (8.87 mL, 64 mmol) were dissolved in 75 mL dry THF. This mixture was also evacuated and backfilled with argon several times to remove oxygen from the solution. Solution 2 was heated to 40° C. and solution 1 was added dropwise. The reaction mixture was heated to 60° C. and tetrabutylammonium fluoride solution (1M in THF, 55 mL, 55 mmol) was added dropwise during 45 min. The reaction was than stirred at RT overnight. The solvent was evaporated. The residue was taken up in 200 mL water and extracted three times with ethyl acetate (200 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by chromatography on silica gel (methylene chloride/methanol 95:5) and recrystallized from a mixture of methylene chloride and ethyl acetate. The desired product was obtained as a light brown solid (7.44 g, 59%).

reactant | 2-Methyl-4-trimethylsilanylethynyl-pyridine | 74 mmol, 12 g | CC1=NC=CC(=C1)C#C[Si](C)(C)C | C11H15NSi
reactant | 5-iodo-2-methyl-1H-imidazole | IC1=CN=C(N1)C | C4H5IN2
reactant | Triphenylphosphine | 0.85 mmol, 223 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethyl amine | 64 mmol, 8.87 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 55 mmol, 1M, 55 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)-palladium(II)chloride | 2.55 mmol, 1.79 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.43 mmol, 81 mg | [Cu]I
product | 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
